US07361671B2
A solution of 5-hydroxymethyl-thiophene-3-carboxylic acid methyl ester (8.8 g, 51.1 mmol) and triethylamine (7.8 mL, 56.2 mmol) in dichloromethane (135 mL) is cooled to 0° C. and treated with a solution of thionyl chloride (4.1 mL, 56.2 mmol) in dichloromethane (40 mL) in a dropwise maner. After stirring for 1 h, water is added and the mixture is extracted with dichloromethane. The combined organics are dried over Na2SO4, filtered and concentrated in vacuo. The residue is purified by flash chromatography (silica gel, 10% ethyl acetate in heptane) to give 5-chloromethyl-thiophene-3-carboxylic acid methyl ester (4.5 g, 46%) an amber oil. 1H NMR (CDCl3, 300 MHz) δ 8.04 (s, 1 H), 7.43 (s, 1 H), 4.78 (s, 2 H), 3.84 (s, 3 H).

reactant | 5-hydroxymethyl-thiophene-3-carboxylic acid methyl ester | 51.1 mmol, 8.8 g | COC(=O)C1=CSC(=C1)CO | C7H8O3S
reactant | triethylamine | 56.2 mmol, 7.8 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 56.2 mmol, 4.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-chloromethyl-thiophene-3-carboxylic acid methyl ester | 4.5 g, 46% | COC(=O)C1=CSC(=C1)CCl | C7H7ClO2S
